US09107916B2
C. methyl 4-cyano-2-ethylbenzoate
Charged methyl 4-bromo-2-ethylbenzoate (1.9 g, 7.85 mmol), Zn(CN)2 (1.48 g, 12.56 mmol), Pd(PPh3)4 (1.0 g, 0.94 mmol) and DMF (30 mL) to a flask, the system was then purged with nitrogen and heated at 100° C. for 6 h. The reaction mixture was then filtered. The filtrate was extracted with ethyl acetate and concentrated the organic phase for flash column chromatograph to give 0.6 g of the title compound (40%). 1H NMR (400 MHz, CDCl3): δ 1.24 (3H, t, J=7.6 Hz), 2.99 (2H, q, J=7.6 Hz), 3.92 (3H, s), 7.52-7.54 (1H, m), 7.57 (1H, s), 7.90 (1H, d, J=8.0 Hz).

reactant | methyl 4-bromo-2-ethylbenzoate | 7.85 mmol, 1.9 g | BrC1=CC(=C(C(=O)OC)C=C1)CC | C10H11BrO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 12.56 mmol, 1.48 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.94 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-cyano-2-ethylbenzoate | 0.6 g, 40% | C(#N)C1=CC(=C(C(=O)OC)C=C1)CC | C11H11NO2
